US07514419B2
To a stirring solution of 4-bromo-2-dimethylamino-phenol (3.7 g, 17.13 mmol) in CH2Cl2 (100 mL) at room temperature was added ethyl-diisopropyl-amine (4.47 mL, 25.7 mmol) and chloro-methoxy-methane (1.69 mL, 22.27 mmol). The mixture was refluxed for 16 hrs, added water. The organic layer was collected and dried over Na2SO4, filtered and concentrated under reduced pressure to afford crude N-(5-bromo-2-methoxymethoxyphenyl)dimethylamine as a red oil (4.4 g, 99%): 1H NMR (200 MHz, DMSO-d6): 6.96 (m, 3 H), 5.17 (s, 2 H), 3.40 (s, 3 H), 2.72 (s, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=15% ethyl acetate in hexanes; Rf=0.59.

reactant | 4-bromo-2-dimethylamino-phenol | 17.13 mmol, 3.7 g | BrC1=CC(=C(C=C1)O)N(C)C | C8H10BrNO
reactant | ethyl-diisopropyl-amine | 25.7 mmol, 4.47 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloro-methoxy-methane | 22.27 mmol, 1.69 mL | ClCOC | C2H5ClO
reactant | water | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(5-bromo-2-methoxymethoxyphenyl)dimethylamine | 4.4 g, 99% | BrC=1C=CC(=C(C1)N(C)C)OCOC | C10H14BrNO2
